US05262382
A stirred mixture of 0.32 gram (8.6×10-4 mole) of 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyano-5-bis- (methylcarbonyl)aminopyrazole, 10 mL of water, and 10 mL of ethanol was heated at reflux for four hours. The mixture was cooled, and most of the ethanol was removed by distillation under reduced pressure. The aqueous pot residue, which contained a solid, was diluted with water, and the mixture was filtered. The filter cake was dried to yield 0.22 gram of 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyano-5-methylcarbonylaminopyrazole. The rmr spectrum was consistent with the proposed structure.

reactant | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyano-5-bis- (methylcarbonyl)aminopyrazole | 8.6×10-4 mole, 0.32 gram | ClC=1C(=NC=C(C1)C(F)(F)F)N1N=CC(=C1N(C(=O)C)C(=O)C)C#N | C14H9ClF3N5O2
reactant | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyano-5-methylcarbonylaminopyrazole | 0.22 gram | ClC=1C(=NC=C(C1)C(F)(F)F)N1N=CC(=C1NC(=O)C)C#N | C12H7ClF3N5O
